US06011044
Preparation of 1-(2-methylphenyl)-4-[(4-hydroxybutyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(600 mg, 1.6 mmol) was dissolved in diethylene glycol(10 ml) and hereto was added 4-amino-1-butanol(1.0 ml), then reacted at the same condition of Step 5 in the Example 1 to obtain 510 mg of desired compound as solid in 73% of yield.

reactant | 1-(2-Methylphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.6 mmol, 600 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H14ClF3N2O
reactant | 4-amino-1-butanol | 1.0 ml | NCCCCO | C4H11NO
solvent | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
product | 1-(2-methylphenyl)-4-[(4-hydroxybutyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 510 mg | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCCCO | C23H24F3N3O2
